*NOR2x1
.subckt nor2x1 A B Y VDD GND
XM1 Y A GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.15
XM2 Y B GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.15
XP1 Y A VDD VDD sky130_fd_pr__pfet_01v8 w=1.0 l=0.15
XP2 Y B VDD VDD sky130_fd_pr__pfet_01v8 w=1.0 l=0.15
.ends

*NOR2x2
.subckt nor2x2 A B Y VDD GND
XM1 Y A GND GND sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XM2 Y B GND GND sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XP1 Y A VDD VDD sky130_fd_pr__pfet_01v8 w=2.0 l=0.15
XP2 Y B VDD VDD sky130_fd_pr__pfet_01v8 w=2.0 l=0.15
.ends

*NOR2x4
.subckt nor2x4 A B Y VDD GND
XM1 Y A GND GND sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XM2 Y B GND GND sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XP1 Y A VDD VDD sky130_fd_pr__pfet_01v8 w=4.0 l=0.15
XP2 Y B VDD VDD sky130_fd_pr__pfet_01v8 w=4.0 l=0.15
.ends

*MAJ3x1
.subckt maj3x1 A B C Y VDD GND

XM_N1 Y A n1 GND sky130_fd_pr__nfet_01v8 w=0.63 l=0.15
XM_N2 n1 B GND GND sky130_fd_pr__nfet_01v8 w=0.63 l=0.15
XM_N3 Y A n2 GND sky130_fd_pr__nfet_01v8 w=0.63 l=0.15
XM_N4 n2 C GND GND sky130_fd_pr__nfet_01v8 w=0.63 l=0.15
XM_N5 Y B n3 GND sky130_fd_pr__nfet_01v8 w=0.63 l=0.15
XM_N6 n3 C GND GND sky130_fd_pr__nfet_01v8 w=0.63 l=0.15
XM_P1 Y A p1 VDD sky130_fd_pr__pfet_01v8 w=1.50 l=0.15
XM_P2 p1 B VDD VDD sky130_fd_pr__pfet_01v8 w=1.50 l=0.15
XM_P3 Y A p2 VDD sky130_fd_pr__pfet_01v8 w=1.50 l=0.15
XM_P4 p2 C VDD VDD sky130_fd_pr__pfet_01v8 w=1.50 l=0.15
XM_P5 Y B p3 VDD sky130_fd_pr__pfet_01v8 w=1.50 l=0.15
XM_P6 p3 C VDD VDD sky130_fd_pr__pfet_01v8 w=1.50 l=0.15
.ends

*MAJ3x2
.subckt maj3x2 A B C Y VDD GND

XM_N1 Y A n1 GND sky130_fd_pr__nfet_01v8 w=1.26 l=0.15
XM_N2 n1 B GND GND sky130_fd_pr__nfet_01v8 w=1.26 l=0.15
XM_N3 Y A n2 GND sky130_fd_pr__nfet_01v8 w=1.26 l=0.15
XM_N4 n2 C GND GND sky130_fd_pr__nfet_01v8 w=1.26 l=0.15
XM_N5 Y B n3 GND sky130_fd_pr__nfet_01v8 w=1.26 l=0.15
XM_N6 n3 C GND GND sky130_fd_pr__nfet_01v8 w=1.26 l=0.15
XM_P1 Y A p1 VDD sky130_fd_pr__pfet_01v8 w=3.00 l=0.15
XM_P2 p1 B VDD VDD sky130_fd_pr__pfet_01v8 w=3.00 l=0.15
XM_P3 Y A p2 VDD sky130_fd_pr__pfet_01v8 w=3.00 l=0.15
XM_P4 p2 C VDD VDD sky130_fd_pr__pfet_01v8 w=3.00 l=0.15
XM_P5 Y B p3 VDD sky130_fd_pr__pfet_01v8 w=3.00 l=0.15
XM_P6 p3 C VDD VDD sky130_fd_pr__pfet_01v8 w=3.00 l=0.15
.ends

*MAJ3x4
.subckt maj3x4 A B C Y VDD GND

XM_N1 Y A n1 GND sky130_fd_pr__nfet_01v8 w=2.52 l=0.15
XM_N2 n1 B GND GND sky130_fd_pr__nfet_01v8 w=2.52 l=0.15
XM_N3 Y A n2 GND sky130_fd_pr__nfet_01v8 w=2.52 l=0.15
XM_N4 n2 C GND GND sky130_fd_pr__nfet_01v8 w=2.52 l=0.15
XM_N5 Y B n3 GND sky130_fd_pr__nfet_01v8 w=2.52 l=0.15
XM_N6 n3 C GND GND sky130_fd_pr__nfet_01v8 w=2.52 l=0.15
XM_P1 Y A p1 VDD sky130_fd_pr__pfet_01v8 w=6.00 l=0.15
XM_P2 p1 B VDD VDD sky130_fd_pr__pfet_01v8 w=6.00 l=0.15
XM_P3 Y A p2 VDD sky130_fd_pr__pfet_01v8 w=6.00 l=0.15
XM_P4 p2 C VDD VDD sky130_fd_pr__pfet_01v8 w=6.00 l=0.15
XM_P5 Y B p3 VDD sky130_fd_pr__pfet_01v8 w=6.00 l=0.15
XM_P6 p3 C VDD VDD sky130_fd_pr__pfet_01v8 w=6.00 l=0.15
.ends
